US03957816
A mixture of 80.0 grams (0.50 moles) of α-tetralone, 64.2 grams (0.60 moles) of 4 -pyridinecarboxaldehyde, 10 grams of piperidine and 10 grams of acetic acid are heated at 80° for 19 hours. The resultant solid is crystallized from about 400 ml. of ethanol to give 2-(4-pyridylmethylene)-3,4-dihydro-4-methyl-1(2H)-napthalenone.

reactant | α-tetralone | 0.50 moles, 80.0 grams | C1CC2=CC=CC=C2C(=O)C1 | C10H10O
reactant | 4 -pyridinecarboxaldehyde | 0.60 moles, 64.2 grams | N1=CC=C(C=C1)C=O | C6H5NO
reactant | piperidine | 10 grams | N1CCCCC1 | C5H11N
solvent | acetic acid | 10 grams | C(C)(=O)O | C2H4O2
product | 2-(4-pyridylmethylene)-3,4-dihydro-4-methyl-1(2H)-napthalenone | N1=CC=C(C=C1)C=C1C(C2=CC=CC=C2C(C1)C)=O | C17H15NO
